US07632829B2
(rac)-1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-4-(2-hydroxy-3-piperidin-1-yl-propyl)-[1,4]diazepan-5-one
A solution of 0.30 g (0.81 mmol) of (rac)-1-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-4-oxiranylmethyl-[1,4]diazepan-5-one in 0.3 ml of DMA was treated with 0.19 ml (1.22 mmol) of piperidine and 0.265 g (0.81 mmol) of cesium carbonate. The reaction was stirred over night at RT, CH2Cl2 was added, filtrated and evaporated. Crystallization (CH2Cl2/Et2O) gave 0.16 g (43%) of the title compound as pink crystalline solid. MS: 454.2 (MH+, 2Cl).

reactant | (rac)-1-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-4-oxiranylmethyl-[1,4]diazepan-5-one | 0.81 mmol, 0.30 g | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCN(C(CC1)=O)CC1OC1 | C17H18Cl2N2O3
reactant | piperidine | 1.22 mmol, 0.19 ml | N1CCCCC1 | C5H11N
reactant | cesium carbonate | 0.81 mmol, 0.265 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMA | 0.3 ml | CC(=O)N(C)C | C4H9NO
product | (rac)-1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-4-(2-hydroxy-3-piperidin-1-yl-propyl)-[1,4]diazepan-5-one | 0.16 g, 43% | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCN(C(CC1)=O)CC(CN1CCCCC1)O | C22H29Cl2N3O3
